US06740670B2
Methanesulfonyl chloride (2.50 g) was added to a stirred solution of 3-(hydroxymethyl)-4-phenylmethoxybenzaldehyde (4.00 g) in dichloromethane (50 ml) at 0° C. To this solution was then added diisopropylethylamine (8.1 ml) over approx. 2 minutes. After stirring for a further 5 minutes the reaction mixture was partitioned between dichloromethane and water. The organic layer was washed with dilute hydrochloric acid, dried over sodium sulfate, filtered and concentrated under reduced pressure to give pale straw coloured oil. Addition of diethyl ether caused the product to crystallize. This material was collected and washed with more diethyl ether to give 3-[[(methylsulfonyl)oxy]methyl]-4-phenylmethoxybenzaldehyde (4.51 g) as off-white crystals. 1H NMR (CDCl3) δ9.78 (s, 1H, CHO); 5.22 (s, 2H); 5.10 (s, 2H); 2.83 (s, 3H). TLC (silica gel): Rf=0.4 (dichloromethane: diethyl ether, 24:1).

reactant | Methanesulfonyl chloride | 2.50 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(hydroxymethyl)-4-phenylmethoxybenzaldehyde | 4.00 g | OCC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C15H14O3
reactant | diisopropylethylamine | 8.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-[[(methylsulfonyl)oxy]methyl]-4-phenylmethoxybenzaldehyde | 4.51 g | CS(=O)(=O)OCC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C16H16O5S
